US08012956B2
To a solution of methyl 4-bromo-2-methylbenzoate (26.6 g, 0.116 mol) in DMF (300 mL) was added zinc cyanide (8.1 g, 0.07 mol) followed by tetrakis(triphenylphosphine)palladium(0) (6.7 g, 0.0058 mol). The reaction mixture was placed in a 100° C. oil bath and stirred for 2 h, at which time it was filtered through a bed of celite and the filter cake rinsed with ethyl acetate. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography (10% ethyl acetate in hexanes) to afford methyl 4-cyano-2-methylbenzoate (18.1 g, 89%) as a white powder. 1H NMR (400 MHz, CDCl3): 7.97 (d, 1H), 7.55 (s, 1H), 7.53 (br m, 1H), 3.93 (s, 3H), 2.62 (s, 3H).

reactant | methyl 4-bromo-2-methylbenzoate | 0.116 mol, 26.6 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.07 mol, 8.1 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0058 mol, 6.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-cyano-2-methylbenzoate | 18.1 g, 89% | C(#N)C1=CC(=C(C(=O)OC)C=C1)C | C10H9NO2
